2132-01-04 11:34:00 Physician Attending Progress Note
Chief Complaint:  resp failure, overdose
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   42 yr old obese  F with h/o copd/asthma and essential tremor presented
   initially to OSH ed with unresponsiveness in setting of PSA/ ? suicide
   attempt transferred for further management.
   Per family had fall [**Last Name (un) 3690**] during which she hit head but was ambulating
   without problem afterwards. [**Name2 (NI) **] to bed that night and by afternoon
   remained difficult to arouse by family
 ems called and taken to OSH
   ed.  There she was intubated for unresponsiveness
no report of
   hemodynamic instability.  Was a difficult /traumatic intubation
   attempts.  W/u included: neg head CT per report. Tox screen pos (benzos
   etoh, barbs, opiates). Narcan without effect.  CXR showed RUL
   pna--treated with avalox X 1. CPKs elevated to 3000
IVFs given.
   Dynamic ECG changes noted
TWI 2,3,f and STD precordial [**3-7**].
   Transferred to [**Hospital1 5**] for further care.
   In our ED - temp 100 134/97 108 26 100% on Fio2 1.0. Given nebs ,
   bicarb drip for presumed rhabdo, Versed for agitation. Flagyl and Tx to
   [**Hospital Unit Name 4**].
   24 Hour Events:
 INVASIVE VENTILATION - START [**2132-1-4**] 03:04 AM
   started first on [**Hospital Ward Name **] EU, intubated OSH
   Since admit to ICU
et pulled back with repeat cxr.  Has RML/RLL
   process--> antibx changed to levo/flagyl for presumed asp pna.
   Continued on PSV--20/5. O2 weaned to 40% FIO2. Bicarb gtt stopped and
   changed to NS.  ABG 7.39/46/89
   History obtained from Family / [**Hospital 216**] Medical records, HO
   Allergies:
   Wellbutrin (Oral) (Bupropion Hcl)
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2132-1-4**] 10:00 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-1-4**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.9
C (100.3
   HR: 73 (73 - 99) bpm
   BP: 114/66(78) {113/65(76) - 149/110(114)} mmHg
   RR: 19 (19 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             4,107 mL
   PO:
             TF:
   IVF:
   1,507 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    500 mL
   Urine:
   500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  3,607 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 453 (453 - 567) mL
   PS : 20 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 26 cmH2O
   SpO2: 96%
   ABG: 7.39/46/89.[**Numeric Identifier 299**]//1
   Ve: 8.6 L/min
   PaO2 / FiO2: 178
   Physical Examination
   Obese F, opens eyes to voice,  follows some simple commands, intubated
   and sedated
   Neck supple
   Coarse BS, wheezy, sym chest wall excursion
   RR
   Obese abd, soft NT + BS
   Peripheral Vascular: (Right radial pulse:present), (Left radial
   pulse:present), (Right DP pulse: present. (Left DP pulse:present)
   Skin:  warm, without rash or track marks
   Neurologic: Responds to voice, Movement: all 4, Tone: wnl
   Labs / Radiology
   175
   0.8
   23
   5.0 mEq/L
   15
   106
   143
        [image002.jpg]
                             [**2132-1-4**]  04:22 AM
   TCO2
   29
   Other labs: Lactic Acid:2.6 mmol/L, ldh 403, cpk 3700, trop < 0.01, INR
   1.1
   Fluid analysis / Other labs: unable to obtain labs this am despite
   multiple sticks
   Imaging: cxr--et  2 cm above carina, RML/rll  process, no effusions.
   Small lung volumes
   Assessment and Plan
   42 yr old obese F with h/o asthma/copd and ess tremor found
   unresponsive with polysubstance overdose/? suicide attempt,  aspiration
   pna on imaging, intubated for resp failure/airway control
   # Resp Failure:
    in setting of poylsubstance overdose c/b asp pna.  Has underlying
   asthma/copd.  Also traumatic intubation with small #7 ett.
   Was having vent dysynchrony when tried on ACV.  Now on PSV with good
   oxygenation and ventilation.  Tolerating well in terms of pressures.
   Wheezy on exam.
   --       Follow abg.
   --      Continue  MDI
s.  Hold on steroids for now and obtain
   additional hx.  Consider prednisone if remains wheezy and unresponsive
   to MDIS.
   # Asp pna/ Leukocytosis
now with significant secretions from ETT. CAP
   asp event in setting of polysubstance od.
   -          continue flagyl/levo
   -          f/u cx data
   -          trend wbc ct
   # Polysubstance overdose
   #  Unresponsiveness/altered ms
   Waking up
agitated but with non-focal exam,
   -          Continue to monitor closely following neuro exams.
   -          Low threshold for repeat head ct though movement
   encouraging.
   -          Has AG
check osms.
   -          lactate elevated at OSH--trending down.  Trend with
   hydration.
   -          Follow ecg
no qtc elevation
   -          Obtain additional hx from family regarding
   ingestions/chronic use
   -          Monitor for signs of withdrawal
   # Cpk elevation/Mild rhabdo
   Trop not elevated here but osh with dynamic ecg changes.  Making good
   urine out and renal fx remains stable.
   -          continue IVF,
   -           trend CK,
   -          follow lytes (phos, mg, and K) .
   -          Unlikely cardiac etiology given neg trop here
but would
   check one additional set.
   ICU Care
   Nutrition:
   Comments: NPO--will start TFs as given ASP pna and sig secretions
   unlikely to be extubated in next 24 hrs.
   Glycemic Control:  Regular insulin sliding scale
if unable to optimize
   would start gtt.  No hx DM.
   Lines:
   20 Gauge - [**2132-1-4**] 07:13 AM
   Comments: picc line--if unable will place central access as difficult
   to obtain peripherals and is requiring freq blood draws.
   Prophylaxis:
   DVT: Boots(holding hep given traumatic intubation and bleeding)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:   Family coming in
need to obtain additional
   hx.
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2132-01-05 12:15:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2132-1-4**] 04:45 PM
   Remains intubated, mechanically ventilated via ETT.
   Significant respiratory tract secretions via ETT, requireing frequent
   suctioning of thick tan secretions.
   Indicates that she "wishes to die."
   Exhibited fever this AM.
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: ETT
   Allergies:
   Wellbutrin (Oral) (Bupropion Hcl)
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2132-1-4**] 10:00 AM
   Metronidazole - [**2132-1-5**] 07:52 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-1-5**] 07:52 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventiation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2132-1-5**] 12:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.2
C (99
   HR: 85 (76 - 95) bpm
   BP: 127/75(88) {113/57(70) - 137/81(92)} mmHg
   RR: 15 (7 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 9 (9 - 45)mmHg
   Total In:
                                                                  5,895 mL
                                                                  1,351 mL
   PO:
   TF:
                                                                     55 mL
                                                                    235 mL
   IVF:
                                                                  3,190 mL
                                                                  1,116 mL
   Blood products:
   Total out:
                                                                    872 mL
                                                                    350 mL
   Urine:
                                                                    872 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,023 mL
                                                                  1,001 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 441 (441 - 717) mL
   PS : 12 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 54
   PIP: 18 cmH2O
   SpO2: 95%
   ABG: ///30/
   Ve: 5.5 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   12.9 g/dL
   239 K/uL
   92 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.7 mEq/L
   13 mg/dL
   106 mEq/L
   142 mEq/L
   37.8 %
   14.4 K/uL
        [image002.jpg]
                             [**2132-1-4**]  04:22 AM
                             [**2132-1-4**]  04:54 PM
                             [**2132-1-5**]  04:58 AM
   WBC
   17.0
   14.4
   Hct
   37.2
   37.8
   Plt
   266
   239
   Cr
   0.6
   0.6
   TropT
   <0.01
   TCO2
   29
   Glucose
   91
   92
   Other labs: PT / PTT / INR:14.2/23.4/1.2, CK / CKMB /
   Troponin-T:1659/7/<0.01, ALT / AST:27/59, Alk Phos / T Bili:73/0.7,
   Lactic Acid:0.8 mmol/L, Albumin:2.9 g/dL, Ca++:7.6 mg/dL, Mg++:2.0
   mg/dL, PO4:2.4 mg/dL
   Microbiology: BLOOD CULTURE (OSH) 1 bottle GPC.
   Assessment and Plan
   ASTHMA/COPD exacerbation, pneumonia; found unresponsive with
   polysubstance overdose (apparent suicide attempt).
   RESPIRATORY FAILURE -- multifactorial; asthma/COPD with exacerbation,
   and new pneumonia (probable aspiration).  Copious secretions liklely
   contributing to persistent need for ETT.  Continue mechanical
   ventilator support, and work towards SBT.  Monitor SaO2.
   ASTHMA/COPD -- active exacerbation;  aspiration contributing to
   exacerbation.  Plan to optimize medications, add steroids (iv and
   inhaled).  Monitor exam.
   RIGHT LUNG INFILTRATE -- aspiration, likely pneumonia.  Plan expand
   coverage.
   BACTEREMIA -- gram positive cocci.  Unclear whether related to
   pneumonia or unrelated (possible contamination).  Plan cover with Vanco
   pending identification.
   POLYSUBSTANCE OVERDOSE -- suicide attempt.  Will need Psychiatry
   evaluation (contact now) and 24-hour sitter once extubated.  Monitor
   for withdrawal.
   UNRESPONSIVENESS/ALTERED MENTAL STATUS -- improving.
   CPK ELEVATION -- resollving.  Monitor CPK.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2132-1-5**] 09:37 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2132-1-4**] 04:45 PM
   20 Gauge - [**2132-1-5**] 11:10 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2132-01-06 06:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2132-1-5**] 11:30 AM
 FEVER - 102.1
F - [**2132-1-5**] 11:00 AM
   - Pressure support decreased from 15 to 10
   - Started po steroid taper for asthma/COPD exacerbation
   - Started on inhaled steroids
   - Social work consult placed
   - Started on vancomycin given fever spike to 102 on night of [**2132-1-4**] and
   GPC in [**1-6**] bottle at OSH blood cultures.
   - Ceftriaxone added for better PNA coverage, levofloxacin continued
   - Flagyl d/c'ed as low concern for anaerobic PNA
   - Flovent d/c'ed and changed to Qvar (can't give Flovent while
   intubated)
   Allergies:
   Wellbutrin (Oral) (Bupropion Hcl)
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2132-1-4**] 10:00 AM
   Metronidazole - [**2132-1-5**] 07:52 AM
   Vancomycin - [**2132-1-5**] 08:06 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-1-5**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-1-6**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37.2
C (99
   HR: 87 (78 - 96) bpm
   BP: 110/52(64) {100/52(63) - 143/81(95)} mmHg
   RR: 10 (6 - 17) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 14 (1 - 23)mmHg
   Total In:
                                                                  3,196 mL
                                                                    550 mL
   PO:
   TF:
                                                                    847 mL
                                                                    399 mL
   IVF:
                                                                  2,348 mL
                                                                    151 mL
   Blood products:
   Total out:
                                                                    745 mL
                                                                    255 mL
   Urine:
                                                                    745 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,451 mL
                                                                    295 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 510 (0 - 601) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 32
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 95%
   ABG: ///33/
   Ve: 5.4 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular:  RRR, no m/r/g
   Respiratory / Chest: diffuse wheezes throughout with prolonged
   expiratory phase; coarse breath sounds
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Tender:
   non-tender, Obese
   Extremities: no c/c/e
   Skin:  Warm, 2+ peripheral pulses
   Neurologic: Opens eyes to verbal stimulus, answers questions by shaking
   head but not always appropriately
   Labs / Radiology
   231 K/uL
   11.9 g/dL
   142 mg/dL
   0.6 mg/dL
   33 mEq/L
   4.1 mEq/L
   13 mg/dL
   107 mEq/L
   143 mEq/L
   35.7 %
   13.5 K/uL
        [image002.jpg]
                             [**2132-1-4**]  04:22 AM
                             [**2132-1-4**]  04:54 PM
                             [**2132-1-5**]  04:58 AM
                             [**2132-1-6**]  04:24 AM
   WBC
   17.0
   14.4
   13.5
   Hct
   37.2
   37.8
   35.7
   Plt
   266
   239
   231
   Cr
   0.6
   0.6
   0.6
   TropT
   <0.01
   TCO2
   29
   Glucose
   91
   92
   142
   Other labs: PT / PTT / INR:13.6/28.8/1.2, CK / CKMB /
   Troponin-T:794/7/<0.01, ALT / AST:27/59, Alk Phos / T Bili:73/0.7,
   Lactic Acid:0.8 mmol/L, Albumin:2.9 g/dL, Ca++:8.4 mg/dL, Mg++:2.1
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   This is a 42 year-old female with a history of COPD, asthma,
   hypertension, and essential tremor who presents after being found
   unresponsive in setting of fall on [**2132-1-2**] with presumed suicide
   attempt with utox pos for BZ, barbs, EtOH.  Spiked to 102 this morning
   # Fever:  Likely multifactorial with PNA as well as GPCs in OSH labs
   bottles on [**2131-1-2**].  Pt continues to be febrile here.  Antibiotic
   coverage broadened yesterday to Vanc, Ceftriaxone, levaquin for
   possible PNA or blood infection.  Flagyl stopped as no clear evidence
   of anaerobic PNA.  No reason to suspect pseudomonas at this point as pt
   was not recently hospitalized.
   - Vancomycin day #2 (started [**2127-1-4**])
   - Ceftriaxone, Levaquin day #3 (started [**2131-1-3**])
   - trend fever curve and WBC count
   - f/u micro data from OSH
   # Respiratory failure:  Initially likely a component of hypercarbic
   respiratory failure due to oversedation from combination of alcohol,
   benzodiazapines, barbiturates, and other unknown meds ingested by
   patient. Also complicating could be her history of asthma and COPD in
   addition to the finding of right lung opacity in setting of
   leukocytosis, consistent with an aspiration event.  Likely a
   significant component of COPD exacerbation with fever, leukocytosis and
   increased sputum production
   - antibiotics as above for CAP coverage
   - PO steroid taper with Prednisone 60mg today, starting 40mg PO
   tomorrow
   - beclomethasone inhaled steriods for long-term benefit
   - attempt to wean vent settings as tolerated
   - suctioning of secretions
   # Polysubstance ingestion:
   Patient with OSH tox screen significant for benzos, barbiturates, and
   alcohol upon presentation. At transfer to our ED had only benzos and
   barbiturates positive on urine tox screen, with both negative on serum
   tox.
   - Supportive care
   - social work c/s for family and patient
   - will likely need psych c/s once more stable and may merit in patient
   pscyh placement
   # Elevated CK: Upon presentation to our ED, patient's CK was elevated
   to 3748 in setting of a normal MBI, and negative troponin. CK
   trending down to 1659 from high of 3900
   - continue to trend CK and renal function
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2132-1-4**] 06:30 PM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2132-1-4**] 03:14 AM
   Multi Lumen - [**2132-1-4**] 04:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Husband, [**Name (NI) **] [**Name (NI) 3692**] [**Telephone/Fax (1) 3693**]
   Code status: Full code
   Disposition: ICU

2132-01-06 12:01:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PAN CULTURE - At [**2132-1-5**] 11:30 AM
 FEVER - 102.1
F - [**2132-1-5**] 11:00 AM
   Remains intubated, mechanically ventilated.
   Tolerating reduction of sedatives.
   Tolerating lower IPS settings.
   Continues to require frequent suctioning,clear frothy sputum.
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: ETT
   Allergies:
   Wellbutrin (Oral) (Bupropion Hcl)
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2132-1-4**] 10:00 AM
   Metronidazole - [**2132-1-5**] 07:52 AM
   Vancomycin - [**2132-1-5**] 08:06 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2132-1-6**] 08:02 AM
   Heparin Sodium (Prophylaxis) - [**2132-1-6**] 08:02 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2132-1-6**] 11:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.7
C (98.1
   HR: 89 (78 - 96) bpm
   BP: 118/48(66) {100/48(63) - 143/79(95)} mmHg
   RR: 14 (6 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 6 (1 - 23)mmHg
   Total In:
                                                                  3,196 mL
                                                                    834 mL
   PO:
   TF:
                                                                    847 mL
                                                                    594 mL
   IVF:
                                                                  2,348 mL
                                                                    240 mL
   Blood products:
   Total out:
                                                                    745 mL
                                                                    475 mL
   Urine:
                                                                    745 mL
                                                                    475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,451 mL
                                                                    359 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 467 (0 - 621) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 32
   PIP: 14 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 100%
   ABG: ///33/
   Ve: 7.5 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   11.9 g/dL
   231 K/uL
   142 mg/dL
   0.6 mg/dL
   33 mEq/L
   4.1 mEq/L
   13 mg/dL
   107 mEq/L
   143 mEq/L
   35.7 %
   13.5 K/uL
        [image002.jpg]
                             [**2132-1-4**]  04:22 AM
                             [**2132-1-4**]  04:54 PM
                             [**2132-1-5**]  04:58 AM
                             [**2132-1-6**]  04:24 AM
   WBC
   17.0
   14.4
   13.5
   Hct
   37.2
   37.8
   35.7
   Plt
   266
   239
   231
   Cr
   0.6
   0.6
   0.6
   TropT
   <0.01
   TCO2
   29
   Glucose
   91
   92
   142
   Other labs: PT / PTT / INR:13.6/28.8/1.2, CK / CKMB /
   Troponin-T:794/7/<0.01, ALT / AST:27/59, Alk Phos / T Bili:73/0.7,
   Lactic Acid:0.8 mmol/L, Albumin:2.9 g/dL, Ca++:8.4 mg/dL, Mg++:2.1
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   ASTHMA/COPD -- exacerbation, pneumonia; found unresponsive with
   polysubstance overdose (apparent suicide attempt).
   RESPIRATORY FAILURE -- multifactorial; asthma/COPD with exacerbation,
   and new pneumonia (probable aspiration).  Copious secretions liklely
   contributing to persistent need for ETT.  Continue mechanical
   ventilator support, and work towards SBT.  Monitor SaO2.
   ASTHMA/COPD -- active exacerbation;  aspiration contributing to
   exacerbation.  Plan to optimize medications, add steroids (iv and
   inhaled).  Monitor exam.
   RIGHT LUNG INFILTRATE -- aspiration, likely pneumonia.  Continue
   expanded antimicrobial coverage.
   BACTEREMIA -- gram positive cocci.  Unclear whether related to
   pneumonia or unrelated (possible contamination).  Plan cover with Vanco
   pending identification.
   POLYSUBSTANCE OVERDOSE -- suicide attempt.  Will need Psychiatry
   evaluation (contact now) and 24-hour sitter once extubated.  Monitor
   for withdrawal.
   UNRESPONSIVENESS/ALTERED MENTAL STATUS -- improving.  Despondent.
   Continue to taper sedation as tolerated.
   CPK ELEVATION -- resolving.  Likely due to fall.  Monitor CPK.
   NUTRITIONAL SUPPORT -- TF via NGT.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2132-1-4**] 04:45 PM
   20 Gauge - [**2132-1-5**] 11:10 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2132-01-07 11:35:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   ICU day 3 for polysubstance overdose, fevers, respiratory failure
   24 Hour Events:
 FEVER - 102.9
F - [**2132-1-6**] 04:00 PM
   Few runs of NSVT noted on telemetry
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Wellbutrin (Oral) (Bupropion Hcl)
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2132-1-5**] 07:52 AM
   Ceftriaxone - [**2132-1-6**] 12:01 PM
   Vancomycin - [**2132-1-7**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2132-1-7**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2132-1-7**] 08:00 AM
   Other medications:
   Levofloxacin, RISS, Primidone, Peridex, Atrovent, Albuterol, Prednisone
   taper (now 60mg qd), Atenolol, Colace
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-1-7**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 37.4
C (99.3
   HR: 89 (69 - 97) bpm
   BP: 132/74(88) {90/46(56) - 133/74(88)} mmHg
   RR: 21 (7 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 17 (3 - 40)mmHg
   Total In:
                                                                  2,486 mL
                                                                  1,048 mL
   PO:
   TF:
                                                                  1,466 mL
                                                                    592 mL
   IVF:
                                                                  1,021 mL
                                                                    456 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    495 mL
   Urine:
                                                                    900 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,586 mL
                                                                    553 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 487 (467 - 668) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 41
   PIP: 11 cmH2O
   Plateau: 19 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 99%
   ABG: ///35/
   Ve: 9.9 L/min
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Bronchial: , Rhonchorous:
   bilat)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Non -purposeful, Tone:
   Not assessed
   Labs / Radiology
   10.5 g/dL
   220 K/uL
   114 mg/dL
   0.5 mg/dL
   35 mEq/L
   3.9 mEq/L
   14 mg/dL
   105 mEq/L
   145 mEq/L
   30.9 %
   11.1 K/uL
        [image002.jpg]
                             [**2132-1-4**]  04:22 AM
                             [**2132-1-4**]  04:54 PM
                             [**2132-1-5**]  04:58 AM
                             [**2132-1-6**]  04:24 AM
                             [**2132-1-7**]  03:06 AM
   WBC
   17.0
   14.4
   13.5
   11.1
   Hct
   37.2
   37.8
   35.7
   30.9
   Plt
   266
   239
   231
   220
   Cr
   0.6
   0.6
   0.6
   0.5
   TropT
   <0.01
   TCO2
   29
   Glucose
   91
   92
   142
   114
   Other labs: PT / PTT / INR:13.0/25.9/1.1, CK / CKMB /
   Troponin-T:794/7/<0.01, ALT / AST:27/59, Alk Phos / T Bili:73/0.7,
   Lactic Acid:0.8 mmol/L, Albumin:2.9 g/dL, Ca++:8.4 mg/dL, Mg++:2.1
   mg/dL, PO4:3.3 mg/dL
   Imaging: CXR-  patchy infiltrates bilat.
   Microbiology: All cx - NGTD
   Assessment and Plan
   ASTHMA/COPD -- exacerbation, pneumonia; found unresponsive with
   polysubstance overdose (apparent suicide attempt).
   RESPIRATORY FAILURE -- multifactorial; asthma/COPD with exacerbation,
   and new pneumonia (probable aspiration).  Copious secretions- possible
   supraglottic in origin vs reflection of pulm edema- liklely
   contributing to persistent need for ETT.  Continue mechanical
   ventilator support, and work towards SBT.  Monitor SaO2. Strive for neg
   fluid balance w/ Lasix today.
   ASTHMA/COPD -- Presumed exacerbation on admission w/ concomm.
   aspiration. On steroids but not wheezing at all today. Rapid taper to
   finish in 2d.
   RIGHT LUNG INFILTRATE -- aspiration, likely pneumonia.  On vanco +
   ceftriax + levoflox for total 8d course.
   BACTEREMIA -- OSH cx now with 1/4 bottle coag neg staph, likely
   contaminant.
   POLYSUBSTANCE OVERDOSE -- suicide attempt.  Will need Psychiatry
   evaluation (contact now) and 24-hour sitter once extubated.  Monitor
   for withdrawal.
   UNRESPONSIVENESS/ALTERED MENTAL STATUS -- improving.  Despondent.
   Continue to taper sedation as tolerated.
   CPK ELEVATION -- resolving.  Likely due to fall.  Monitor CPK.
   NUTRITIONAL SUPPORT -- TF via NGT.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2132-1-4**] 03:14 AM
   Multi Lumen - [**2132-1-4**] 04:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2132-01-08 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: PNA, suicidality
   24 Hour Events:
 FEVER - 101.4
F - [**2132-1-8**] 05:00 AM
   - Patient continues to have copious secretions.
   - She was given 20 mg IV lasix x 2 for a goal of [**1-3**].5L neg, however
   only partially reached the goal.
   - She was started on valium 10 mg po bid to facilitate weaning of
   sedation.  She became agitated and pulled her OG so her versed was
   increased back to 10 mg/hr.
   - Her vent was weaned down to PS of 5/PEEP of 5 over the course of the
   day.
   Patient unable to provide history: Sedated
   Allergies:
   Wellbutrin (Oral) (Bupropion Hcl)
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2132-1-5**] 07:52 AM
   Ceftriaxone - [**2132-1-7**] 11:57 AM
   Vancomycin - [**2132-1-7**] 08:14 PM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2132-1-7**] 08:00 AM
   Furosemide (Lasix) - [**2132-1-7**] 03:59 PM
   Heparin Sodium (Prophylaxis) - [**2132-1-8**] 12:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-1-8**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.6
C (101.4
   HR: 80 (71 - 92) bpm
   BP: 110/61(72) {88/46(55) - 135/74(88)} mmHg
   RR: 15 (10 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 9 (-1 - 45)mmHg
   Total In:
                                                                  2,094 mL
                                                                    610 mL
   PO:
   TF:
                                                                  1,007 mL
                                                                    419 mL
   IVF:
                                                                  1,088 mL
                                                                    191 mL
   Blood products:
   Total out:
                                                                  2,645 mL
                                                                    260 mL
   Urine:
                                                                  2,645 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -551 mL
                                                                    350 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 273 (184 - 487) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 51
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   SpO2: 94%
   ABG: ///41/
   Ve: 5.5 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Bronchial: , Rhonchorous: )
   Abdominal: Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Sedated, Paralyzed, Tone: Normal
   Labs / Radiology
   221 K/uL
   10.7 g/dL
   107 mg/dL
   0.5 mg/dL
   41 mEq/L
   3.2 mEq/L
   15 mg/dL
   102 mEq/L
   146 mEq/L
   32.7 %
   11.7 K/uL
        [image002.jpg]
                             [**2132-1-4**]  04:22 AM
                             [**2132-1-4**]  04:54 PM
                             [**2132-1-5**]  04:58 AM
                             [**2132-1-6**]  04:24 AM
                             [**2132-1-7**]  03:06 AM
                             [**2132-1-7**]  04:46 PM
                             [**2132-1-8**]  05:20 AM
   WBC
   17.0
   14.4
   13.5
   11.1
   11.7
   Hct
   37.2
   37.8
   35.7
   30.9
   32.7
   Plt
   266
   239
   231
   220
   221
   Cr
   0.6
   0.6
   0.6
   0.5
   0.6
   0.5
   TropT
   <0.01
   TCO2
   29
   Glucose
   91
   92
   142
   114
   107
   Other labs: PT / PTT / INR:12.5/22.6/1.1, CK / CKMB /
   Troponin-T:794/7/<0.01, ALT / AST:27/59, Alk Phos / T Bili:73/0.7,
   Lactic Acid:0.8 mmol/L, Albumin:2.9 g/dL, Ca++:8.0 mg/dL, Mg++:2.2
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 RHABDOMYOLYSIS
 SUICIDALITY / SUICIDE ATTEMPT
 PNEUMONIA, ASPIRATION
   42 year-old female with a history of COPD, asthma, hypertension, and
   essential tremor who presents after being found unresponsive in setting
   of fall on [**2132-1-2**] with presumed suicide attempt with utox pos for
   BZ, barbs, EtOH now with continued fevers.
   # Fever:  Likely multifactorial with PNA as well as GPCs which grew out
   as coag neg staph in OSH labs
 bottles on [**2131-1-2**].  Pt continues to be
   febrile here.  Antibiotic coverage broadened two days ago to Vanc,
   Ceftriaxone, levaquin for possible PNA or blood infection.  Flagyl
   stopped as no clear evidence of anaerobic PNA.  No reason to suspect
   pseudomonas at this point as pt was not recently hospitalized.
   - Vancomycin day #4 (started [**2127-1-4**])
   - Ceftriaxone, Levaquin day #5 (started [**2131-1-3**])
   - trend fever curve and WBC count
   - f/u micro data from OSH, by reprot it was coag neg staph which would
   likely represent a contaminant
   - Would consider adding back flaygl for anerobic coverage given the
   patient
s continued fevers on her current antibiotic regimen and risk
   for aspriation if she becomes unstable, for now will continue with the
   above antibiotics.
   # Respiratory failure:  Initially likely a component of hypercarbic
   respiratory failure due to oversedation from combination of alcohol,
   benzodiazapines, barbiturates, and other unknown meds ingested by
   patient. Also complicating could be her history of asthma and COPD in
   addition to the finding of right lung opacity in setting of
   leukocytosis, consistent with an aspiration event.  Likely a
   significant component of COPD exacerbation with fever, leukocytosis and
   increased sputum production.  Her CXR shows volume overload and she is
   9.2 L positive for LOS.
   - antibiotics as above for PNA
   - Will given 20 mg IV lasix today for gentle diuresis with a goal of
   [**1-3**].5 L negative today.
   - PO steroid taper with Prednisone 40mg today, 20mg PO tomorrow
   - beclomethasone inhaled steriods for long-term benefit
   - attempt to wean vent settings as tolerated
   - as she was becoming apneic with pressure support, will need to wean
   sedation.  Given her history of benzo use as an outpatient, will likely
   need to start standing benzo while weaning sedation to prevent
   withdrawal.  Will start 10 mg of valium [**Hospital1 **].
   - suctioning of secretions
   # Polysubstance ingestion:
   Patient with OSH tox screen significant for benzos, barbiturates, and
   alcohol upon presentation. At transfer to our ED had only benzos and
   barbiturates positive on urine tox screen, with both negative on serum
   tox.
   - Supportive care
   - social work c/s for family and patient
   - will likely need psych c/s once more stable and may merit inpatient
   pscyh placement
   # Elevated CK: Upon presentation to our ED, patient's CK was elevated
   to 3748 in setting of a normal MBI, and negative troponin. CK
   trending down to 794 yesterday from high of 3900
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2132-1-8**] 06:17 AM 60 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-1-4**] 03:14 AM
   Multi Lumen - [**2132-1-4**] 04:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-01-08 11:37:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   febrile this am at 0500 and metronidazole resumed. continues to be
   suctioned frequently (q15 min thin white) by RN.
   Allergies:
   Wellbutrin (Oral) (Bupropion Hcl)
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2132-1-7**] 11:57 AM
   Vancomycin - [**2132-1-8**] 08:00 AM
   Metronidazole - [**2132-1-8**] 08:40 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2132-1-7**] 03:59 PM
   Lansoprazole (Prevacid) - [**2132-1-8**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2132-1-8**] 08:00 AM
   Midazolam (Versed) - [**2132-1-8**] 10:30 AM
   Fentanyl - [**2132-1-8**] 11:08 AM
   Other medications:
   Synthroid, levofloxacin (last dose today), RISS, Primidone, Atrovent,
   Albuterol, prednisone, QVar, Colace
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-1-8**] 11:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.9
C (100.3
   HR: 88 (71 - 100) bpm
   BP: 127/87(90) {88/46(55) - 135/87(91)} mmHg
   RR: 26 (12 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
   CVP: 22 (-1 - 45)mmHg
   Total In:
                                                                  2,094 mL
                                                                  1,193 mL
   PO:
   TF:
                                                                  1,007 mL
                                                                    684 mL
   IVF:
                                                                  1,088 mL
                                                                    509 mL
   Blood products:
   Total out:
                                                                  2,645 mL
                                                                    520 mL
   Urine:
                                                                  2,645 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -551 mL
                                                                    673 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 471 (184 - 475) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 51
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   SpO2: 96%
   ABG: 7.41/68/101/41/14
   Ve: 6.7 L/min
   PaO2 / FiO2: 202
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : , Rhonchorous: ), good
   cough
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   221 K/uL
   107 mg/dL
   0.5 mg/dL
   41 mEq/L
   3.2 mEq/L
   15 mg/dL
   102 mEq/L
   146 mEq/L
   32.7 %
   11.7 K/uL
        [image002.jpg]
                             [**2132-1-4**]  04:22 AM
                             [**2132-1-4**]  04:54 PM
                             [**2132-1-5**]  04:58 AM
                             [**2132-1-6**]  04:24 AM
                             [**2132-1-7**]  03:06 AM
                             [**2132-1-7**]  04:46 PM
                             [**2132-1-8**]  05:20 AM
                             [**2132-1-8**]  06:41 AM
   WBC
   17.0
   14.4
   13.5
   11.1
   11.7
   Hct
   37.2
   37.8
   35.7
   30.9
   32.7
   Plt
   266
   239
   231
   220
   221
   Cr
   0.6
   0.6
   0.6
   0.5
   0.6
   0.5
   TropT
   <0.01
   TCO2
   29
   45
   Glucose
   91
   92
   142
   114
   107
   Other labs: PT / PTT / INR:12.5/22.6/1.1, CK / CKMB /
   Troponin-T:794/7/<0.01, ALT / AST:27/59, Alk Phos / T Bili:73/0.7,
   Lactic Acid:0.8 mmol/L, Albumin:2.9 g/dL, Ca++:8.0 mg/dL, Mg++:2.2
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- multifactorial; asthma/COPD with exacerbation,
   and new pneumonia (probable aspiration).  Copious secretions- possible
   supraglottic in origin vs reflection of pulm edema- liklely
   contributing to persistent need for ETT.  Cont neg fluid balance w/
   Lasix.
   -extubated today with good results
will keep upright tonight to avoid
   aspiration
   -on steroid taper for presumed COPD exac; cont nebs, ICS
   -cont vanco + ceftriax + levoflox to complete 8d course for pna;
   metronidazole added yest
   PERSISTENT FEVERS -- pna as clear source, no other source found.
   consider noninfectious causes as well
   -f/u bld cx
   POLYSUBSTANCE OVERDOSE -- suicide attempt.  Will need Psychiatry
   evaluation (contact now) and 24-hour sitter once extubated.  Monitor
   for withdrawal.
   UNRESPONSIVENESS/ALTERED MENTAL STATUS -- improving.  Despondent.
   Continue to taper sedation as tolerated.
   -Haldol prn for agitation working well
   CPK ELEVATION -- resolving.  Likely due to fall.  Monitor CPK.
   NUTRITIONAL SUPPORT -- TF via NGT.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2132-1-8**] 06:17 AM 60 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-1-4**] 03:14 AM
   Multi Lumen - [**2132-1-4**] 04:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2132-01-09 06:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: PNA
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2132-1-8**] 01:44 PM
   started first on [**Hospital Ward Name **] EU, intubated OSH
   - extubated successfully
   - still having lots of secretions requiring frequent suctions
   - patient delirious, psych c/s placed, recommended 2mg iv haldol q4h
   prn agitation, 5mg iv if severely agitated
   - psych will re eval safety/suicide risk after patient no longer
   delirious
   - high aspiration risk, needs to have HOB >45 degrees
   - 16 WBC in urine last night, trace LE, few bac, had c/o burning with
   urination - broad spec abx - didn't add anything
   S: Denies any chest pain, nausea, vomiting, fevers, chills. Pt states
   that she was poisoned and did not kill herself. She would like to go
   home.
   Allergies:
   Wellbutrin (Oral) (Bupropion Hcl)
   Unknown;
   Red Dye
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2132-1-7**] 11:57 AM
   Vancomycin - [**2132-1-8**] 08:10 PM
   Metronidazole - [**2132-1-9**] 12:10 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2132-1-8**] 08:00 AM
   Midazolam (Versed) - [**2132-1-8**] 10:30 AM
   Fentanyl - [**2132-1-8**] 11:08 AM
   Heparin Sodium (Prophylaxis) - [**2132-1-9**] 12:11 AM
   Haloperidol (Haldol) - [**2132-1-9**] 04:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-1-9**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.5
C (99.5
   HR: 91 (76 - 100) bpm
   BP: 123/64(78) {92/52(64) - 134/90(95)} mmHg
   RR: 23 (12 - 26) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 5 (3 - 22)mmHg
   Total In:
                                                                  1,577 mL
                                                                     62 mL
   PO:
   TF:
                                                                    724 mL
   IVF:
                                                                    853 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                  1,760 mL
                                                                    580 mL
   Urine:
                                                                  1,760 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -183 mL
                                                                   -518 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Spontaneous): 471 (471 - 471) mL
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   SpO2: 91%
   ABG: 7.41/68/101//14
   Ve: 6.7 L/min
   PaO2 / FiO2: 202
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : , Bronchial: , Wheezes : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: No [**Location (un) **]
   Skin:  Warm
   Neurologic: Delirious orientated to self, place. Believes it is [**2126**].
   States she was poisoned and denies commiting suicide. Able to follow
   simple commands and respond. Does lose concentration with in depth
   questioning.
   Labs / Radiology
   219 K/uL
   10.7 g/dL
   107 mg/dL
   0.5 mg/dL
   41 mEq/L
   3.2 mEq/L
   15 mg/dL
   102 mEq/L
   146 mEq/L
   30.6 %
   10.3 K/uL
        [image002.jpg]
                             [**2132-1-4**]  04:22 AM
                             [**2132-1-4**]  04:54 PM
                             [**2132-1-5**]  04:58 AM
                             [**2132-1-6**]  04:24 AM
                             [**2132-1-7**]  03:06 AM
                             [**2132-1-7**]  04:46 PM
                             [**2132-1-8**]  05:20 AM
                             [**2132-1-8**]  06:41 AM
                             [**2132-1-9**]  05:17 AM
   WBC
   17.0
   14.4
   13.5
   11.1
   11.7
   10.3
   Hct
   37.2
   37.8
   35.7
   30.9
   32.7
   30.6
   Plt
   266
   239
   231
   220
   221
   219
   Cr
   0.6
   0.6
   0.6
   0.5
   0.6
   0.5
   TropT
   <0.01
   TCO2
   29
   45
   Glucose
   91
   92
   142
   114
   107
   Other labs: PT / PTT / INR:12.5/22.6/1.1, CK / CKMB /
   Troponin-T:794/7/<0.01, ALT / AST:27/59, Alk Phos / T Bili:73/0.7,
   Lactic Acid:0.8 mmol/L, Albumin:2.9 g/dL, Ca++:8.0 mg/dL, Mg++:2.2
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 RHABDOMYOLYSIS
 SUICIDALITY / SUICIDE ATTEMPT
 PNEUMONIA, ASPIRATION
   42 year-old female with a history of COPD, asthma, hypertension, and
   essential tremor who presents after being found unresponsive in setting
   of fall on [**2132-1-2**] with presumed suicide attempt with utox pos for
   BZ, barbs, EtOH now with continued fevers.
   # Fever:  Pt has had low grade fever of 100.7 x one episode yesterday
   afternoon on her Antibiotic regimen of Vanc, Ceftriaxone, Metronidazole
   for PNA. She currently has 2 sputum samples which no bacteria, will d/c
   Vancomycin today as pt currently has negative culture data and has low
   grade fever with Vancomycin.
   - Vancomycin day #4 (started [**2127-1-4**]) d/c
d today
   - Will continue Ceftriaxone, day #5 (started [**2131-1-3**]); Flagyl 500mg q8h
   - trend fever curve and WBC count
   - f/u micro data from OSH, by reprot it was coag neg staph which would
   likely represent a contaminant
   - urine cx neg x2, sputum neg x2, blood cx [**Last Name (LF) 3824**], [**First Name3 (LF) 124**] f/u
   # Respiratory failure:  Initially likely a component of hypercarbic
   respiratory failure due to oversedation from combination of alcohol,
   benzodiazapines, barbiturates, and other unknown meds ingested by
   patient. Also complicating could be her history of asthma and COPD in
   addition to the finding of right lung opacity in setting of
   leukocytosis, consistent with an aspiration event.  Likely a
   significant component of COPD exacerbation with fever, leukocytosis and
   increased sputum production.  Successfully extubated yesterday and is
   now maintaining her airway. Pt does have some secretions.
   - antibiotics as above for PNA
   - PO steroid taper with Prednisone continued last dose will be
   tomorrow.
   - beclomethasone inhaled steriods for long-term benefit
   - suctioning of secretions
   # Polysubstance ingestion:
   Patient with OSH tox screen significant for benzos, barbiturates, and
   alcohol upon presentation. At transfer to our ED had only benzos and
   barbiturates positive on urine tox screen, with both negative on serum
   tox. Psych is currently aware and has seen the patient. Due to her
   delirious state however they will defer treatment for her apparent SI
   until she clears. For her delirium we will d/c her Diazepam and use
   Haldol for agitation rather than Benzos.
   - psych currently following, will assess for SI treatment when mental
   status clears
   - Will d/c Benzos and use Haldol for agitation
   - If delierium state persists will consider CT head, currently no need
   as neuro exam is non-focal.
   - Continue 1:1 sitter for failed suicide attempt
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2132-1-4**] 04:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:[**Hospital 704**] transfer to floor today pending bed availability.